US07858632B2
To a flask charged with 4-amino-2-isopropyl-5-methyl-benzene-1,3-diol (450 mg, 2.5 mmol) (Treibs and Albrecht, “The dihydroxycymenes. IV. Isocymorcin (3,5-dihydroxycymene) from 3,5-menthanedione by dehydrogenation and total synthesis,” Journal fuer Praktische Chemie (1961), 13, 291-305), purged with argon, and cooled to 0° C. was sequentially added triethylorthoformate (0.7 mL, 4.2 mmol), EtOH (4 mL), and a 10% v/v solution of H2SO4 in EtOH (40 μL). The reaction was allowed to warm to room temperature slowly, stirred overnight, quenched with saturated NaHCO3, and concentrated. The residue was partitioned between water and methylene chloride. The combined organic phases were dried with Na2SO4 and concentrated to provide 510 mg of 7-isopropyl-4-methyl-benzooxazol-6-ol.

reactant | 4-amino-2-isopropyl-5-methyl-benzene-1,3-diol | 2.5 mmol, 450 mg | NC1=C(C(=C(C=C1C)O)C(C)C)O | C10H15NO2
reactant | 3,5-dihydroxycymene | OC=1C=C(C=C(C1C)O)C(C)C | C10H14O2
reactant | 3,5-menthanedione | C1(CC(C(C(C1)=O)C(C)C)=O)C | C10H16O2
reactant | triethylorthoformate | 4.2 mmol, 0.7 mL | C(C)OC(OCC)OCC | C7H16O3
reactant | H2SO4 | OS(=O)(=O)O | H2O4S
solvent | EtOH | 40 μL | CCO | C2H6O
catalyst | titanium chloride | [Cl-].[Ti+4].[Cl-].[Cl-].[Cl-]
solvent | EtOH | 4 mL | CCO | C2H6O
product | 7-isopropyl-4-methyl-benzooxazol-6-ol | 510 mg | C(C)(C)C1=C(C=C(C=2N=COC21)C)O | C11H13NO2
